US06069145
3-Fluoro-4-(4-ethyl-3-oxopiperazin-1-yl)nitrobenzene (3.4 g) was dissolved in ethyl acetate (200 ml) and the solution flushed with argon. Palladium (10% on carbon, 180 mg) was added, and the mixture hydrogenated under ambient pressure. After gas uptake had ceased, the mixture was filtered through celite and solvent evaporated to give 5-amino-2-(4-ethyl-3-oxopiperazin-1-yl)fluorobenzene, which was used without further purification.

reactant | 3-Fluoro-4-(4-ethyl-3-oxopiperazin-1-yl)nitrobenzene | 3.4 g | FC=1C=C(C=CC1N1CC(N(CC1)CC)=O)[N+](=O)[O-] | C12H14FN3O3
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 5-amino-2-(4-ethyl-3-oxopiperazin-1-yl)fluorobenzene | NC=1C=CC(=C(C1)F)N1CC(N(CC1)CC)=O | C12H16FN3O
